US09120900B2
3a): Preparation of 5-(4-bromobutyl)-bicyclo[2.2.1]hept-2-ene
In a 250 mL three neck bottle magnesium turnings (5.2 g, 214 mmol, 2.35 eq.) are mixed with tetrahydrofuran (10 ml). Whilst stirring 5-(brommethyl)-bicyclo[2.2.1]hept-2-ene (17 g, 90.8 mmol, 1.03 eq.) that is dissolved in tetrahydrofuran (25 ml) is added dropwise. After stirring for one hour the excess of magnesium turnings is filtered off. The solution is added dropwise to a mixture of 1,3-dibromopropan (17.9 g, 88 mmol, 1 eq.), Li2CuCl4 (0.1 M in THF) (9 ml, 0.9 mmol, 0.01 eq.) and tetrahydrofuran (35 ml). After complete addition of the Grignard reagent, the black solution is stirred for one hour more. The reaction mixture is hydrolyzed with acetic acid (20%). Diethylether (40 ml) is added and the organic phase is washed with saturated sodium hydrogencarbonate solution (30 ml) and distilled water (30 ml). The organic layer is dried over magnesium sulfate and the solvent evaporated in vacuo at room temperature. The product is distilled at 20 mbar and 140° C. A colourless oil is obtained (Yield: 10.31 g, 45 mmol, 51%).

reactant | magnesium | 214 mmol, 5.2 g, 2.35 eq. | [Mg] | Mg
reactant | 5-(brommethyl)-bicyclo[2.2.1]hept-2-ene | 90.8 mmol, 17 g, 1.03 eq. | BrCC1C2C=CC(C1)C2 | C8H11Br
reactant | 1,3-dibromopropan | 88 mmol, 17.9 g, 1 eq. | BrCCCBr | C3H6Br2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | Diethylether | 40 ml | C(C)OCC | C4H10O
product | 5-(4-bromobutyl)-bicyclo[2.2.1]hept-2-ene | BrCCCCC1C2C=CC(C1)C2 | C11H17Br
